Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 L hip pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ presents to ER for eval of L hip pain s/p mechanical fall 
while using walker this afternoon. Witnessed by son. Negative 
plain films at PCP so sent to ER for eval of persistent hip 
pain. CT shows intertrochanteric fx. She has been ambulating 
since with discomfort. uses walker and wheelchair at baseline. 
Poor mobility ___ age and ___ disease.
 
Past Medical History:
___ Disease, HTN 
 
Social History:
___
Family History:
not significant
 
Physical Exam:
General: nad, aox3  
Vitals: af, vss  
Left lower extremity:  
- Skin intact  
- No deformity, erythema, edema, induration or ecchymosis  
- Soft, non-tender thigh and leg  
- Pain with AROM/PROM of R hip, worse with abduction. Also pain 
with logroll.  
- ___ fire  
- SILT SPN/DPN/TN/saphenous/sural distributions  
- 1+ ___ pulses, foot warm and well-perfused  

 
Pertinent Results:
IMAGING:  
CT L hip with intertrochanteric fx  

 
Brief Hospital Course:
Hospitalization Summary 

The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have L hip with intertrochanteric fx  and was admitted to the 
orthopedic surgery service. The patient did not need surgical 
intervention at this point. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications after deciding to continue with non 
surgical management. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to rehab facility was 
appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
WBAT with troch precautions in the LL extremity, and will be 
discharged on Lovenox for DVT prophylaxis. The patient will 
follow up with Dr. ___ routine. A thorough discussion was 
had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Carbidopa-Levodopa (___) 1 TAB PO TID 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Carbidopa-Levodopa (___) 1 TAB PO TID 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
6. Acetaminophen 650 mg PO TID 
RX *acetaminophen [Arthritis Pain Reliever] 650 mg 1 tablet(s) 
by mouth every six (6) hours Disp #*30 Tablet Refills:*0
7. Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg sc once a day Disp #*30 
Syringe Refills:*0
8. Lodosyn (carbidopa) 25 mg oral BID 
9. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [SmoothLax] 17 gram 1 powder(s) by 
mouth once a day Disp #*30 Packet Refills:*0
10. Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L greater troch fx

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" , and this feeling should improve 
over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- WBAT with walker

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- you have no surgical wound and You may shower, baths or ___.

Physical Therapy:
WBAT, ROM as tolerated, Troch precautions, Limit Abduction
Treatments Frequency:
___
 
Followup Instructions:
___